US08022062B2
N-(tert-Butoxycarbonyl)-3-fluoro-4-(1-hydroxy-3,3-dimethyl-butyl)-benzylamine:
Add butyllithium (7.3 mL, 11.7 mmol) to a solution of 4-bromo-N-(tert-butoxycarbonyl)-3-fluoro-benzylamine (1.55 g, 5.1 mmol) in diethyl ether (54 mL) at −78° C. under nitrogen and stir for 30 min. Add 3,3-dimethylbutyraldehyde (562 mg, 0.7 mL, 5.6 mmol), stir for 30 min at −78° C. and then warm to room temperature. Add water and extract twice the aqueous phase with EtOAc. Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (85:15) to obtain the desired intermediate as a yellow oil (394 mg, 24%).

reactant | butyllithium | 11.7 mmol, 7.3 mL | C(CCC)[Li]
reactant | 4-bromo-N-(tert-butoxycarbonyl)-3-fluoro-benzylamine | 5.1 mmol, 1.55 g | BrC1=C(C=C(CNC(=O)OC(C)(C)C)C=C1)F | C12H15BrFNO2
reactant | 3,3-dimethylbutyraldehyde | 5.6 mmol, 0.7 mL, 562 mg | CC(CC=O)(C)C | C6H12O
solvent | diethyl ether | 54 mL | C(C)OCC | C4H10O
product | N-(tert-Butoxycarbonyl)-3-fluoro-4-(1-hydroxy-3,3-dimethyl-butyl)-benzylamine | 394 mg, 24% | C(C)(C)(C)OC(=O)NCC1=CC(=C(C=C1)C(CC(C)(C)C)O)F | C18H28FNO3
